US04551264
2-(3,5-Difluoro-4-cyanophenyl)-5-butyl-1,3-dioxane is obtained analogously to Example 1 using 5-butyl-1,3-dioxane-2-carboxylic acid chloride (obtainable by reacting ethyl glyoxylate with 2-butylpropane-1,3-diol to give ethyl 5-butyl-1,3-dioxane-2-carboxylate, saponifying the latter and reacting the resulting free acid with SOCl2).

reactant | ethyl glyoxylate | C(C=O)(=O)OCC | C4H6O3
reactant | 2-butylpropane-1,3-diol | C(CCC)C(CO)CO | C7H16O2
product | ethyl 5-butyl-1,3-dioxane-2-carboxylate | C(CCC)C1COC(OC1)C(=O)OCC | C11H20O4
